US07449586B2
(R)-Methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)propanoate
A flame-dried 2 L Parr hydrogenation bottle was charged with (Z)-methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)acrylate (84.5 g, 239 mmol), dichloromethane (300 mL), and methanol (300 mL). The bottle was swirled so that a light brown suspension was formed. This was degassed by a flow of nitrogen for 30 min. To this was quickly added (−)-1,2-bis((2R,5R)-2,5-diethylphospholano)bezene(cyclooctadiene) rhodium (I) tetrafluoroborate ([(2R,5R)-Et-DuPhosRh]BF4) (2.11 g, 3.20 mmol). The bottle was immediately attached to a Parr Hydrogenator. After 5 cycles of hydrogen (60 psi) and vacuum, the bottle was pressurized to 65 psi and the suspension was agitated at room temperature for 16 h. The reaction had become homogeneous. The reaction mixture was concentrated, and the resulting residue purified by flash chromatography (silica gel, 1:9 ethyl acetate/dichloromethane) to give 82.9 g (98%). 1H-NMR (DMSO-d6) δ 2.04 (s, 6H), 2.65 (dd, J=13.4, 9.8 Hz, 1H), 2.82 (dd, J=13.7, 5.2 Hz, 1H), 3.62 (s, 3H), 4.15-4.10 (m, 1H), 4.41 (s, 2H), 5.00 (s, 2H), 6.68 (s, 2H), 7.37-7.28 (m, 5H), 7.70 (d, J=7.9 Hz, 1H); 13C-NMR (DMSO-d6) δ 17.7, 35.9, 51.7, 56.1, 65.3, 120.4, 124.0, 127.5, 127.7, 128.2, 128.3, 136.9, 142.6, 155.9, 172.5.

reactant | (Z)-methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)acrylate | 239 mmol, 84.5 g | NC1=C(C=C(C=C1C)\C=C(\C(=O)OC)/C(=O)OCC1=CC=CC=C1)C | C20H21NO4
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 mL | CO | CH4O
product | (R)-Methyl 3-(4-amino-3,5-dimethylphenyl)-2-(benzyloxycarbonyl)propanoate | NC1=C(C=C(C=C1C)C[C@H](C(=O)OC)C(=O)OCC1=CC=CC=C1)C | C20H23NO4
